US08445424B2
A solution of DMPU (9.86 g, 77.0 mmol) in THF (100 ml) was added at −70° C. within 5 min to a stirred solution of lithium diisopropylamide (2 M in THF, 38.5 ml, 77.0 mmol). After 10 min stirring at −70° C. a solution of 2,2-dimethylcyclopentanone (7.80 g, 70.0 mmol) in THF (50 ml) was added over a period of 30 min. The reaction mixture was warmed up to −20° C. and treated dropwise with 2-iodopropane (18.7 g, 105 mmol). The reaction mixture was warmed up slowly to room temp., stirred over night at room temp., and quenched with satd. aq. NH4Cl solution (300 ml) and extracted with Et2O (3×300 ml). The combined organic extracts were dried (Na2SO4), and concentrated under the reduced pressure. The resulting residue was purified by silica gel FC (pentane/Et2O, 98:2, Rf 0.25) to furnish 5-isopropyl-2,2-dimethylcyclopentanone (8.42 g, 78%). IR (neat): v=1731 (s, vC═O), 1462 [m, δas(CH3)], 1367 [m, δs(CH3)] cm−1. 1H NMR (CDCl3): δ=0.80/0.99 (2d, J=7.0 Hz, 6 H, 1′-Me2), 0.94/1.06 (2s, 6 H, 2-Me2), 1.62-1.69 (m, 2 H, 3-Hax, 4-Hax), 1.76-1.81 (m, 1 H, 5-H), 1.89-1.94 (m, 1 H, 1′-H), 2.11-2.17 (m, 2 H, 3-Heq, 4-Heq) ppm. 13C NMR (CDCl3): δ=18.4/21.1 (2q, 1′-Me2), 20.6 (t, C-4), 23.1/24.7 (2q, 2-Me2), 27.4 (d, C-1′), 36.4 (t, C-3), 45.3 (s, C-2), 224.1 (s, C-1) ppm. MS (EI): m/z (%)=154 (15) [M]+, 139 (7) [M-CH3]+, 112 (36) [M-C3H6]+, 97 (18) [M-C4H9]+, 56 (100) [C3H4O]+.

reactant | DMPU | 77.0 mmol, 9.86 g | CN1CCCN(C1=O)C | C6H12N2O
reactant | lithium diisopropylamide | 77.0 mmol, 2 M, 38.5 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2,2-dimethylcyclopentanone | 70.0 mmol, 7.80 g | CC1(C(CCC1)=O)C | C7H12O
reactant | 2-iodopropane | 105 mmol, 18.7 g | IC(C)C | C3H7I
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5-isopropyl-2,2-dimethylcyclopentanone | 8.42 g, 78% | C(C)(C)C1CCC(C1=O)(C)C | C10H18O
